US08404677B2
(E)-Ethyl 4-(3,5-bis(trifluoromethyl)phenylamino)-6-(2-(dimethylamino)vinyl)-2-(methylthio)pyrimidine-5-carboxylate
The title compound was prepared as described in Example 1e by starting from ethyl 4-(3,5-bis(trifluoro methyl)phenylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate (1.52 g, 3.6 mmol) and N,N-dimethylformamide dimethylacetal (743 uL, 5.2 mmol) and continuing until the reaction yielded the crude title compound (E)-ethyl 4-(3,5-bis(trifluoromethyl)phenylamino)-6-(2-(dimethylamino)vinyl)-2-(methyl thio)pyrimidine-5-carboxylate. The resultant compound was used for the next step without further purification.

reactant | ethyl 4-(3,5-bis(trifluoro methyl)phenylamino)-6-methyl-2-(methylthio)pyrimidine-5-carboxylate | 3.6 mmol, 1.52 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC1=NC(=NC(=C1C(=O)OCC)C)SC)(F)F | C17H15F6N3O2S
reactant | N,N-dimethylformamide dimethylacetal | 5.2 mmol, 743 uL | COC(N(C)C)OC | C5H13NO2
product | (E)-ethyl 4-(3,5-bis(trifluoromethyl)phenylamino)-6-(2-(dimethylamino)vinyl)-2-(methyl thio)pyrimidine-5-carboxylate | FC(C=1C=C(C=C(C1)C(F)(F)F)NC1=NC(=NC(=C1C(=O)OCC)\C=C\N(C)C)SC)(F)F | C20H20F6N4O2S
